US08377970B2
Step-2: N-{2-[5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]pyrimidin-5-yl}-3-oxobutanamide (445 mg, 1.3 mmol) and N,N-Dimethylformamide dimethylacetal (859 mg, 7.2 mmol) were mixed and stirred at rt for overnight. Workup (AcOEt/H2O) followed by purification on 60-120 mesh silicagel using AcOEt and Peteher (1:1) as eluent afforded N-{2-[5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]pyrimidin-5-yl}-2-[(dimethylamino)methylene]-3-oxobutanamide (0.3 g).

reactant | N-{2-[5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]pyrimidin-5-yl}-3-oxobutanamide | 1.3 mmol, 445 mg | C1(CC1)C1=CC(=NN1C1=NC=C(C=N1)NC(CC(C)=O)=O)C(F)(F)F | C15H14F3N5O2
reactant | N,N-Dimethylformamide dimethylacetal | 7.2 mmol, 859 mg | COC(N(C)C)OC | C5H13NO2
product | N-{2-[5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]pyrimidin-5-yl}-2-[(dimethylamino)methylene]-3-oxobutanamide | 0.3 g | C1(CC1)C1=CC(=NN1C1=NC=C(C=N1)NC(C(C(C)=O)=CN(C)C)=O)C(F)(F)F | C18H19F3N6O2
